US09120749B2
1-(6-bromo-4-chloroquinolin-3-yl)propan-1-one
1-(6-Bromo-4-hydroxyquinolin-3-yl)propan-1-one (21 g, 67.7 mmol) was added to phosphoryl chloride (80 mL). The resultant suspension was then heated to 85° C. and stirred for 1.5 h. The reaction mixture was cooled to room temperature and poured carefully into a mixture of saturated sodium bicarbonate (250 mL) and 2N aqueous sodium hydroxide (250 mL). The solution was then extracted with ethyl acetate, the combined organics were washed with water and brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford the desired product (16 g, 96%) as a tan solid: APCI MS m/z 298 [C12H9BrClNO+H]+.

reactant | 1-(6-Bromo-4-hydroxyquinolin-3-yl)propan-1-one | 67.7 mmol, 21 g | BrC=1C=C2C(=C(C=NC2=CC1)C(CC)=O)O | C12H10BrNO2
reactant | phosphoryl chloride | 80 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium bicarbonate | 250 mL | C([O-])(O)=O.[Na+]
solvent | sodium hydroxide | 2N, 250 mL | [OH-].[Na+]
product | 1-(6-bromo-4-chloroquinolin-3-yl)propan-1-one | 16 g, 96% | BrC=1C=C2C(=C(C=NC2=CC1)C(CC)=O)Cl | C12H9BrClNO
